US08217027B2
A solution of 3-(3-methoxyphenyl)propanoic acid (2.00 g, 11.10 mmol) in THF (2.0 mL) was added dropwise to a stirred solution of borane-tetrahydrofuran complex (24.42 mL, 24.42 mmol) so as to maintain reaction temperature below 35° C. The mixture was allowed to stir at room temperature overnight. Methanol was added dropwise to the stirred mixture until visible reaction had ceased. An additional 20 mL of methanol was added and the reaction was stirred for 4 hours. The crude mixture was concentrated, filtered and purified by silica gel chromatography (1:1 heptane:EtOAc as eluant). Fractions containing product were combined and concentrated to give 3-(3-methoxy-phenyl)-propan-1-ol as an oil.

reactant | 3-(3-methoxyphenyl)propanoic acid | 11.10 mmol, 2.00 g | COC=1C=C(C=CC1)CCC(=O)O | C10H12O3
reactant | Methanol | CO | CH4O
reactant | methanol | 20 mL | CO | CH4O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 3-(3-methoxy-phenyl)-propan-1-ol | COC=1C=C(C=CC1)CCCO | C10H14O2
